US07943613B2
Sodium methoxide (23 mg, 0.43 mmol) was added to 1 M solution of lithium aluminum hydride in tetrahydrofuran (9 mL, 9.0 mmol). The mixture was cooled to 0° C. and a solution of 3-(4-bromophenyl)prop-2-yn-1-ol (1.9 g, 9.0 mmol) in tetrahydrofuran (15 mL) was slowly added. The reaction was stirred for at 0° C. for 3 h; ethyl acetate (2.7 mL, 9.0 mmol) was added and the mixture was stirred for 10 min without cooling. 4-Iodobenzotrifluoride (2.33 g, 8.6 mmol), anhydrous zinc chloride (0.74 g, 5.4 mmol), tris(dibenzylideneacetone)dipalladium chloroform complex (0.19 g, 0.18 mmol) and tri(2-furyl)phosphine (0.17 g, 0.73 mmol) were added, the mixture was evacuated and kept under nitrogen. The mixture was heated at 65° C. for 16 h. Methanol (4.5 mL) was added and the mixture was stirred for additional 1 h. The reaction mixture was diluted with ether (300 mL) and saturated aqueous solution of ammonium chloride (2.5 mL) was added. The mixture was filtered through a pad of silica gel, evaporated in vacuo and the residue was submitted to column chromatography (silica gel Fluka 60, hexanes/ethyl acetate 80:20) affording (E)-3-(4-bromophenyl)-3-(4-trifluoromethyl phenyl)-prop-2-en-1-ol.

reactant | Sodium methoxide | 0.43 mmol, 23 mg | C[O-].[Na+]
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-bromophenyl)prop-2-yn-1-ol | 9.0 mmol, 1.9 g | BrC1=CC=C(C=C1)C#CCO | C9H7BrO
reactant | ethyl acetate | 9.0 mmol, 2.7 mL | C(C)(=O)OCC | C4H8O2
reactant | 4-Iodobenzotrifluoride | 8.6 mmol, 2.33 g | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | tri(2-furyl)phosphine | 0.73 mmol, 0.17 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 5.4 mmol, 0.74 g | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | 9.0 mmol, 9 mL | O1CCCC1 | C4H8O
product | (E)-3-(4-bromophenyl)-3-(4-trifluoromethyl phenyl)-prop-2-en-1-ol | BrC1=CC=C(C=C1)/C(=C/CO)/C1=CC=C(C=C1)C(F)(F)F | C16H12BrF3O
